US07585978B2
Effect of change in pH of a dextrose solution in the range 3 to 7 pH upon the addition of nicardipine hydrochloride solution was performed by first measuring the initial pH of the individual solutions; thereafter, one (1) volume of nicardipine hydrochloride solution prepared by Example-11 was mixed with nine (9) volumes of dextrose solution and the pH adjusted to a desired value in the range 3 to 7. The pH data are furnished in Table-3; the plot of difference in the pH of nicardipine hydrochloride solution before and after dilution with 5% dextrose solution versus the initial pH of dextrose solution is shown in FIG. 4. For comparison, a similar plot for the pH data reported in U.S. Pat. No. 5,164,405 for buffered and unbuffered nicardipine solution is also provided.

reactant | dextrose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | nicardipine hydrochloride | CC1=C(C(C(=C(N1)C)C(=O)OCCN(C)CC=2C=CC=CC2)C=3C=CC=C(C3)[N+](=O)[O-])C(=O)OC.Cl
product | nicardipine | CC1=C(C(C(=C(N1)C)C(=O)OCCN(C)CC=2C=CC=CC2)C=3C=CC=C(C3)[N+](=O)[O-])C(=O)OC | C26H29N3O6
